US04506098
contacting said 3,5-dimethyl-4-nitro-cyclohexene with hydrogen at a temperature of about 0° C. to about 200° C. and a pressure of about 0 psig to about 1500 psig in the presence of a palladium catalyst to form 2,6-dimethylcyclohexyl amine; and

reactant | 3,5-dimethyl-4-nitro-cyclohexene | CC1C=CCC(C1[N+](=O)[O-])C | C8H13NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
product | 2,6-dimethylcyclohexyl amine | CC1C(C(CCC1)C)N | C8H17N
